US07906652B2
Step 1: 5-[3-(1-azetidin-3-yl-2-fluoro-2-methylpropyl)-5-fluorophenyl]-2-methyl-2H-tetrazole
A solution of 370 mg (0.78 mmol) of 5-(3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorophenyl)-2-methyl-2H-tetrazole in 20 mL of EtOH was shaken in presence 200 mg of Pd(OH)2 under 50 Psi pressure hydrogen for 24 h. Then it was filtered to remove the solid and washed with CH2Cl2. The combined organic layer was concentrated and washed with hexanes/ethyl ether to afford the title compound as a white solid; Mass Spectrum: m/e=308 (M+1).

reactant | 5-(3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorophenyl)-2-methyl-2H-tetrazole | 0.78 mmol, 370 mg | C1(=CC=CC=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C=C(C1)F)C=1N=NN(N1)C)C1=CC=CC=C1 | C28H29F2N5
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 200 mg | [OH-].[OH-].[Pd+2]
product | 5-[3-(1-azetidin-3-yl-2-fluoro-2-methylpropyl)-5-fluorophenyl]-2-methyl-2H-tetrazole | N1CC(C1)C(C(C)(C)F)C=1C=C(C=C(C1)F)C=1N=NN(N1)C | C15H19F2N5
